US08389511B2
tert-Butyl (3R)-3-{isopropyl[(4-{2-[(methoxycarbonyl)amino]ethyl}-2,7-dimethyl-3-oxo-3,4-dihydro-2H-1,4-benzothiazin-6-yl)carbonyl]amino}piperidine-1-carboxylate
To a solution of 4-{2-[(methoxycarbonyl)amino]ethyl}-2,7-dimethyl-3-oxo-3,4-dihydro-2H-1,4-benzothiazine-6-carboxylic acid (460 mg) in N,N-dimethylformamide (4 ml) were added CIP reagent, N-ethyldiisopropylamine, tert-butyl (3R)-3-(isopropylamino)piperidine-1-carboxylate, and the mixture was stirred overnight. After the reaction was complete, to the mixture was added a saturated aqueous sodium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered, concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound (284 mg).

reactant | 4-{2-[(methoxycarbonyl)amino]ethyl}-2,7-dimethyl-3-oxo-3,4-dihydro-2H-1,4-benzothiazine-6-carboxylic acid | 460 mg | COC(=O)NCCN1C(C(SC2=C1C=C(C(=C2)C)C(=O)O)C)=O | C15H18N2O5S
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
reactant | tert-butyl (3R)-3-(isopropylamino)piperidine-1-carboxylate | C(C)(C)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C13H26N2O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | tert-Butyl (3R)-3-{isopropyl[(4-{2-[(methoxycarbonyl)amino]ethyl}-2,7-dimethyl-3-oxo-3,4-dihydro-2H-1,4-benzothiazin-6-yl)carbonyl]amino}piperidine-1-carboxylate | 284 mg | C(C)(C)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(=O)C=1C(=CC2=C(N(C(C(S2)C)=O)CCNC(=O)OC)C1)C | C28H42N4O6S
